US07144896B2
Step 2: Hydroxy-(4-methylsulfanyl-phenyl)-acetic acid ethyl ester
To a solution of (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (Described in J. Med. Chem. 1981, 407) (1.0 eq) in EtOH (0.22M) at −78° C. was added NaBH4 (0.5 eq). The resulting mixture was stirred for 30 min then quenched at −78° C. by adding saturated aqueous NH4Cl. The residual mixture was concentrated, filtered on silica gel using EtOAc. The combined organic extracts were concentrated and the residual solid was recrystallised in Et2O/Hex to afford the desired compound as a yellow solid.

reactant | (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 1.0 eq | C(C)OC(C(=O)C1=CC=C(C=C1)SC)=O | C11H12O3S
reactant | NaBH4 | 0.5 eq | [BH4-].[Na+]
solvent | EtOH | 0.22M | CCO | C2H6O
product | Hydroxy-(4-methylsulfanyl-phenyl)-acetic acid ethyl ester | C(C)OC(C(C1=CC=C(C=C1)SC)O)=O | C11H14O3S
